US06943183B2
N-Cyclopropyl-4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide (Compound 226)
Using the method in Example 172, 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid (50 mg, 0.10 mmol, 0.20M in DMF) and cyclopropylamine (17 mg, 0.30 mmol, 0.6M in DMF) were combined to give 47 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 538 [M+H]+.

reactant | 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid | 0.10 mmol, 0.20M, 50 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=CC=C(C(=O)O)C=C1 | C29H26N2O4S
reactant | cyclopropylamine | 0.30 mmol, 0.6M, 17 mg | C1(CC1)N | C3H7N
product | N-Cyclopropyl-4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide | 47 mg | C1(CC1)NC(C1=CC=C(C=C1)SCC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C32H31N3O3S
